US05475109
4-[N-Benzyl-3-(4-chlorobenzyl)-piperidin-3-yl]-2,4-dioxobutanoic acid Hydrochloride
A solution of N-Benzyl-3-acetyl-3-(4-chlorobenzyl)piperidine (492 mg, 1.44 mmol) and dimethyl oxalate (201 mg, 1.7 mmol) in dimethoxyethane (20 mL) was treated with sodium hydride (140 mg of a 60% dispersion in mineral oil, 3.4 mmol) and heated to reflux for 5 hours. The reaction was then cooled to room temperature, poured into saturated sodium bicarbonate (100 mL) and extracted with ethyl acetate (3×100 mL). The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated at reduced pressure. The crude ester thus obtained was purified by chromatography on silica gel eluting with 10% methanol/chloroform. The material thus obtained was dissolved in tetrahydrofuran (5 mL) and 3 N HCl (20 mL) and heated to reflux for 1 hour. The reaction was then cooled to room temperature, and concentrated at reduced pressure. The residue was triturated with tetrahydrofuran and the solid collected by filtration and crystallized from isopropanol to give 35 mg of the title compound. mp. 160° -165° C.

reactant | N-Benzyl-3-acetyl-3-(4-chlorobenzyl)piperidine | 1.44 mmol, 492 mg | C(C1=CC=CC=C1)N1CC(CCC1)(CC1=CC=C(C=C1)Cl)C(C)=O | C21H24ClNO
reactant | dimethyl oxalate | 1.7 mmol, 201 mg | C(C(=O)OC)(=O)OC | C4H6O4
reactant | sodium hydride | [H-].[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | HCl | 3 N, 20 mL | Cl | ClH
solvent | dimethoxyethane | 20 mL | C(OC)COC | C4H10O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[N-Benzyl-3-(4-chlorobenzyl)-piperidin-3-yl]-2,4-dioxobutanoic acid Hydrochloride | 35 mg | Cl.C(C1=CC=CC=C1)N1CC(CCC1)(CC1=CC=C(C=C1)Cl)C(CC(C(=O)O)=O)=O | InChI=1S/C23H24ClNO4.ClH/c24-19-9-7-17(8-10-19)14-23(21(27)13-20(26)22(28)29)11-4-12-25(16-23)15-18-5-2-1-3-6-18;/h1-3,5-10H,4,11-16H2,(H,28,29);1H
